US05919796
Preparation of N-benzyloxy-3-pyridinecarboximidoyl chloride hydrochloride
2.38 g (10 mmoles) of N-(benzyloxy)nicotinamide (Beilstein 22/V, page 120) are boiled under reflux in 20 ml of thionyl chloride for 2 hours. After distilling off the excess thionyl chloride, the residue is crystallized from isopropanol to give 1.75 g (62%) of the desired product, the physical characteristics of which are identical to those of the product prepared by method A).

reactant | N-(benzyloxy)nicotinamide | 10 mmoles, 2.38 g | C(C1=CC=CC=C1)ONC(C1=CN=CC=C1)=O | C13H12N2O2
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | N-benzyloxy-3-pyridinecarboximidoyl chloride hydrochloride | 1.75 g, 62% | Cl.C(C1=CC=CC=C1)ON=C(C=1C=NC=CC1)Cl | InChI=1S/C13H11ClN2O.ClH/c14-13(12-7-4-8-15-9-12)16-17-10-11-5-2-1-3-6-11;/h1-9H,10H2;1H
